US04397679
A solution of 34.3 g of o-nitrobenzyl chloride and 15.2 g of thiourea in 250 ml of #2B alcohol was refluxed for 11/2 hours. The solution was cooled to 60° and 250 ml of 1-chlorobutane added. Further cooling to 20° yielded a precipitate which was filtered, washed with 1-chlorobutane and dried at 65° to give 38.1 g of 2-nitrophenylmethyl carbamimidothioate hydrochloride, m.p. 190°-192°.

reactant | o-nitrobenzyl chloride | 34.3 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | thiourea | 15.2 g | NC(=S)N | CH4N2S
solvent | 1-chlorobutane | 250 ml | ClCCCC | C4H9Cl
product | 2-nitrophenylmethyl carbamimidothioate hydrochloride | 38.1 g | Cl.C(N)(=N)SCC1=C(C=CC=C1)[N+](=O)[O-] | InChI=1S/C8H9N3O2S.ClH/c9-8(10)14-5-6-3-1-2-4-7(6)11(12)13;/h1-4H,5H2,(H3,9,10);1H
